US04451462
8.99 g of 2-(5-chloro-2-methoxy-4-morpholinophenyl)-propionic acid (0.03 mole) are boiled in 48% hydrogen bromide solution for 2 hours. The reaction mixture is cooled and concentrated and extracted 3 times with methylene chloride. The organic phases are washed neutral, combined, dried over sodium sulphate and concentrated in a vacuum rotary evaporator. In this manner 5-chloro-3-methyl-6-(morpholin-4-yl)-benzofuran-2(3H)-one having a melting point of 103°-105° is obtained.

reactant | 2-(5-chloro-2-methoxy-4-morpholinophenyl)-propionic acid | 0.03 mole, 8.99 g | ClC=1C(=CC(=C(C1)C(C(=O)O)C)OC)N1CCOCC1 | C14H18ClNO4
solvent | hydrogen bromide | Br | BrH
product | 5-chloro-3-methyl-6-(morpholin-4-yl)-benzofuran-2(3H)-one | ClC=1C(=CC2=C(C(C(O2)=O)C)C1)N1CCOCC1 | C13H14ClNO3
